US07678820B2
To a solution of 2-fluoroterephthalonitrile (500 mg) and Et3N (572 μl) in EtOH (20 ml) was added hydrazine (monohydrate), followed by reaction at 60° C. for 16 hours, and concentrated. The residue was washed with diethyl ether to obtain 3-amino-1H-indazole-6-carbonitrile (488 mg) as a yellow solid.

reactant | 2-fluoroterephthalonitrile | 500 mg | FC1=C(C#N)C=CC(=C1)C#N | C8H3FN2
reactant | Et3N | 572 μl | CCN(CC)CC | C6H15N
reactant | hydrazine | NN | H4N2
solvent | EtOH | 20 ml | CCO | C2H6O
product | 3-amino-1H-indazole-6-carbonitrile | 488 mg | NC1=NNC2=CC(=CC=C12)C#N | C8H6N4
